US05569664
To a stirred solution of 1.0 gram (0.002 mole) of N-(4-methoxyphenylmethyl)-4-[bis(4-ethylphenyl)hydroxymethyl]piperidine (prepared in the manner of Example 1) in 10 mL of methylene chloride was slowly added 1.1 mL (0.007 mole) of triethylsilane, followed by 1.0 mL (0.013 mole) of trifluoroacetic acid. The reaction mixture was then stirred at ambient temperature during a five hour period. After this time the reaction mixture was neutralized with solid sodium carbonate. The mixture was then partitioned between 100 mL of methylene chloride and 50 mL of water. The organic layer was separated and washed with two 50 mL portions of an aqueous solution saturated with sodium chloride. The organic layer was then dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure to a residue, which was purified by subjecting it to preparative thin layer chromatography, with 25% acetone in methylene chloride as the eluant, yielding about 0.5 gram of N-(4-methoxyphenylmethyl)-4-[bis(4-ethylphenyl)methyl]piperidine. The NMR spectrum was consistent with the proposed structure.

reactant | N-(4-methoxyphenylmethyl)-4-[bis(4-ethylphenyl)hydroxymethyl]piperidine | 0.002 mole, 1.0 gram | COC1=CC=C(C=C1)CN1CCC(CC1)C(O)(C1=CC=C(C=C1)CC)C1=CC=C(C=C1)CC | C30H37NO2
reactant | triethylsilane | 0.007 mole, 1.1 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 0.013 mole, 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(4-methoxyphenylmethyl)-4-[bis(4-ethylphenyl)methyl]piperidine | about 0.5 gram | COC1=CC=C(C=C1)CN1CCC(CC1)C(C1=CC=C(C=C1)CC)C1=CC=C(C=C1)CC | C30H37NO
